US09079853B2
3-(2-(1H-indol-3-yl)-2-oxoethyl)-1-(3-azidopropyl)-3-hydroxy-5-methylindolin-2-one
To a clean Biotage microwave vial was added 1-(1H-indol-3-yl)ethanone (0.023 grams, 0.143 mmol, purchased from Fisher Scientific), 1-(3-azidopropyl)-5-methylindoline-2,3-dione (0.02 grams, 0.082 mmol) and 0.27 mL of methanol. After the addition of 9.0 μL of dimethyl amine (40% by weight solution in water, purchased from Fisher Scientific), the vial was sealed and heated in a Biotage Initiator for ten minutes at 130° C. It was then concentrated and purified using a Teledyne ISCO hexanes/ethyl acetate gradient on silica gel. A subsequent purification was done using a preparative thin layer chromatography (ethyl acetate, hexanes (2:1)). Yield 14%. 1H-NMR δ 8.87 (bs, 1H), 8.34 (m, 1H), 7.76 (s, 1H), 7.40 (m, 1H), 7.29 (m, 3H), 7.10 (d, 1H), 6.77 (d, 1H), 5.0 (bs, OH), 3.77 (m, 2H), 3.60 (d, 1H), 3.41 (t, 2H), 3.34 (d, 1H), 2.27 (s, 3H), 1.96 (m, 2H).

reactant | 1-(1H-indol-3-yl)ethanone | 0.143 mmol, 0.023 grams | N1C=C(C2=CC=CC=C12)C(C)=O | C10H9NO
reactant | 1-(3-azidopropyl)-5-methylindoline-2,3-dione | 0.082 mmol, 0.02 grams | N(=[N+]=[N-])CCCN1C(C(C2=CC(=CC=C12)C)=O)=O | C12H12N4O2
reactant | dimethyl amine | 9.0 μL | CNC | C2H7N
solvent | methanol | 0.27 mL | CO | CH4O
product | 3-(2-(1H-indol-3-yl)-2-oxoethyl)-1-(3-azidopropyl)-3-hydroxy-5-methylindolin-2-one | N1C=C(C2=CC=CC=C12)C(CC1(C(N(C2=CC=C(C=C12)C)CCCN=[N+]=[N-])=O)O)=O | C22H21N5O3
